US09403846B2
Step 1. Synthesis of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(oxiran-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C32)
Sodium hydride (60% in mineral oil, 295 mg, 7.38 mmol) was added to a solution of trimethylsulfoxonium iodide (97%, 1.83 g, 8.07 mmol) in dimethyl sulfoxide (15 mL). After 30 minutes, the mixture was cooled in an ice bath, and a solution of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-formyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P1) (1.12 g, 2.69 mmol) in dimethyl sulfoxide (5 mL) was added. The reaction mixture was allowed to warm to room temperature and stir for 2 hours, at which time saturated aqueous ammonium chloride solution was added, followed by dichloromethane, and the mixture was washed twice with water and with saturated aqueous sodium chloride solution. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The product was obtained as a white foamy solid, estimated to be a roughly 4:3 mixture of diastereomers by LCMS analysis; this material was used without additional purification. Yield: 1.19 g, quantitative. LCMS m/z 431.1 [M+H+].

reactant | Sodium hydride | 7.38 mmol, 295 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 8.07 mmol, 1.83 g | [I-].C[S+](=O)(C)C
reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-formyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 2.69 mmol, 1.12 g | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C=O)NC(C2=CC=CC=C2)=O | C21H18F2N2O3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(oxiran-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C2OC2)NC(C2=CC=CC=C2)=O | C22H20F2N2O3S
